datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC(C)[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)=[O:23].COC(=O)C12C3C4C5C1[W-3:11]4532(C#[O+])(C#[O+])(C#[O+])[H:10]>>CC(C)[C:22](=[CH:21][CH:20]([H:10])[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)[O-:23].COC(=O)C12C3C4C5C1[W-2:11]4532(C#[O+])(C#[O+])C#[O+] 10,11=10,20;20,21=21,22;22,23=23"
"C[N:12]1[N:11]=[N:10][C:61]2=[C:62]1C=CC=C2.FC(F)(F)[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1>>C[N+:12]1=[N:11][N:10]([C:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](C(F)(F)F)=[CH:54][CH:55]=[CH:56]2)[C:61]2=[C:62]1C=CC=C2 10,11=10,20;12=11,12"
"C1=CC=C(C[N+:61]#[C-:10])C=C1.[CH:20]1=[CH:21][C:22](=[O:23])[O:43][C:31]1=[O:32]>>C1=CC=C(C[N+:61]#[C:10][CH:20]2[CH:21]=[C:22]([O-:23])[O:43][C:31]2=[O:32])C=C1 10=20;20,21=21,22;22,23=23"
"C1CC[C:21](=[O:20])C1.CC[O:72][C:61]([CH-:10][C:81]1=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]1)=[O:62]>>CC[O:72][C:61]([CH:10]([O:20][C-:21]1CCCC1)[C:81]1=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]1)=[O:62] 10=20;20,21=21"
CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][C:43](OC)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[C:63]1=[CH:62][CH:61]=[N:10][CH:71]=[CH:72]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([N+:10]2=[CH:61][CH:62]=[C:63](C)[CH:72]=[CH:71]2)([C:41]2=[CH:42][C:43](OC)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10=20
"CC[O:72][P:61]([CH-:10][C:92](=[O:93])[O:103]CC)(=[O:62])[O:82]CC.O=S(=O)(C(F)(F)F)[C:21]1=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[C:33]([N+:22]([O-])=[O:23])=[CH:32]1>>CC[O:72][P:61]([CH:10]([CH:20]1[C:21]2(S(=O)(=O)C(F)(F)F)[N+:22]([O-])([O-:23])[C:33](=[CH:32]2)[C:34]2=[N:35]O[N+:42]([O-])=[C:41]12)[C:92](=[O:93])[O:103]CC)(=[O:62])[O:82]CC 10=20;20,21=21,22;22,23=23"
"CO/[C:10](C1=CC=CC=C1)=[C:11]1/[N:12](C2=CC=CC=C2)[N:72]=[C:73](C2=CC=CC=C2)[N:62]1C1=CC=CC=C1.COC1=CC=C([C:22]2=[O+:23][C:32]3=[C:31](C=CC=C3)[CH:20]=[CH:21]2)C=C1>>COC1=CC=C([C:22]2=[CH:21][CH:20]([C:10](OC)(C3=CC=CC=C3)[C:11]3=[N+:12](C4=CC=CC=C4)[N:72]=[C:73](C4=CC=CC=C4)[N:62]3C3=CC=CC=C3)[C:31]3=[C:32](C=CC=C3)[O:23]2)C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([C:22](/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[O:23])C=C1.C[C:72]1=[CH:71][N:10]=[C:11]([O-:12])[NH:84][C:73]1=[O:74]>>C[C:72]1=[CH:71][N:10]([CH:20]([CH:21]=[C:22](C2=CC=CC=C2)[O-:23])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:11](=[O:12])[NH:84][C:73]1=[O:74] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]/[CH:41]=[CH:42]/C2=CC=C(Cl)C=C2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].C[C:10](=[C:11]=[N-:12])[C:61]1=[CH:62][CH:63]=[C:64](C(F)(F)F)[CH:73]=[CH:72]1>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([C:10](C)([C:11]#[N:12])[C:61]2=[CH:62][CH:63]=[C:64](C(F)(F)F)[CH:73]=[CH:72]2)/[CH:41]=[CH:42]/C2=CC=C(Cl)C=C2)=[CH:22]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"CC[O:82][C:71](/[CH:10]=[C:11](\[O-:12])[C:62]1=[CH:63][CH:64]=[C:65]([N+:66](=[O:67])[O-:97])[CH:94]=[CH:93]1)=[O:72].CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[O+:21]C)[CH:35]=[CH:36]1>>CC[O:82][C:71]([CH:10]([C:11](=[O:12])[C:62]1=[CH:63][CH:64]=[C:65]([N+:66](=[O:67])[O-:97])[CH:94]=[CH:93]1)[CH:20]([O:21]C)[C:31]1=[CH:32][CH:33]=[C:34](OC)[CH:36]=[CH:35]1)=[O:72] 10,11=10,20;12=11,12;20,21=21"
"CC(C)(C1=CC=CC=C1)[O:21][S:20]C(F)(F)F.CO[C:65]1=[CH:64][CH:63]=[C:62]([N:61]2[C-:10]=[N+:71](C)[CH:73]=[CH:72]2)[CH:67]=[CH:66]1>>CC(C)(C1=CC=CC=C1)[O-:21].CO[C:65]1=[CH:64][CH:63]=[C:62]([N:61]2[C:10]([S:20]C(F)(F)F)=[N+:71](C)[CH:73]=[CH:72]2)[CH:67]=[CH:66]1 10=20;20,21=21"
"C1=CC=C(C[O:33][C:22](/[N:21]=[N:20]/[C:41](=[O:42])[O:43]CC2=CC=CC=C2)=[O:23])C=C1.[N:10]1=[CH:11][N-:12][C:61]([CH:72]=[O:73])=[CH:62]1>>C1=CC=C(C[O:33][C:22](=[N:21][N:20]([N:10]2[CH:11]=[N:12][C:61]([CH:72]=[O:73])=[CH:62]2)[C:41](=[O:42])[O:43]CC2=CC=CC=C2)[O-:23])C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CCC(CO)[NH2:10].O=[N+]([O-])[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1>>CCC(CO)[NH2+:10][CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]1=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]1 10=20;20,21=21,22;22,23=23"
C1=CC=C([C+:20]2[S:31]CCC[S:41]2)C=C1.CC1=C[C:71]2=[C:72](C=C1)[NH:62][CH:61]=[N:10]2>>CC1=C[C:71]2=[C:72](C=C1)[NH:62][CH:61]=[N+:10]2[C:20]1(C2=CC=CC=C2)[S:31]CCC[S:41]1 10=20
"CC1=CC=[C:10]([B:11]2[O:12]C(C)(C)C(C)(C)[O:62]2)O1.C[C:21]1=[CH:20]CCC[C:22]1=[O:23]>>CC1(C)C(C)(C)[O:62][B:11]=[O+:12]1.CC1=CC=[C:10]([CH:20]2CCC[C:22]([O-:23])=[C:21]2C)O1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
